US09315495B2
To a solution of 1-methyl-1H-pyrrole-2-carbaldehyde (1.09 g, 10.0 mmol) in 60 mL chloroform at −20° C. was added a single crystal of iodine. The mixture was stirred until homogeneous. Bromine (0.51 mL, 10.0 mmol) was added dropwise as a solution in 10 mL chloroform. The solution was stirred while warming from −20 to 0° C. over 1.5 h. Chloroform was removed in vacuo and the residue added to 5% sodium bisulfite solution to quench excess bromine/iodine. Saturated sodium bicarbonate was added until the pH of the mixture reached 7. Organics were extracted with ether (3×75 mL), dried over magnesium sulfate, filtered and concentrated to give crude 4-bromo-1-methyl-1H-pyrrole-2-carbaldehyde (1.80 g) as the major component of a mixture of starting aldehyde and dibromopyrrole. Used without further purification.

reactant | 1-methyl-1H-pyrrole-2-carbaldehyde | 10.0 mmol, 1.09 g | CN1C(=CC=C1)C=O | C6H7NO
reactant | iodine | II | I2
reactant | Bromine | 10.0 mmol, 0.51 mL | BrBr | Br2
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-1-methyl-1H-pyrrole-2-carbaldehyde | 1.80 g | BrC=1C=C(N(C1)C)C=O | C6H6BrNO
